US06124323
From a mixture of 1-[3-(4-Amino-3-nitrophenoxy)propyl]-4-benzylpiperidine (226 mg, 0.61 mmol) and stannous dihydrate (690 mg, 3.06 mmol) in EtOH (25 mL) was obtained 140 mg (67.6%) of 4-benzyl-1-[(3,4-diamino-phenoxy)propyl]piperidine as a yellowish viscous oil. 1H NMR (CDCl3): 1.24-1.37 (m, 2H), 1.46-1.58 (m, 1H), 1.58-1.70 (m, 2H), 1.81-1.97 (m, 4H), 2.458 (t, 2H, J=7.5), 2.536 (d, 2H, J=7), 2.90-2.93 (m, 2H), 3.063 (bs, 2H, NH2), 3.503 (bs, 2H, NH2), 3.904 (t, 2H, J=6.5), 6.250 (dd, 1H, J=8; 2.5), 6.319 (d, 1H, J=2.5), 6.619 (d, 1H, J=8), 7.13-7.30 (m, 5H).

reactant | 1-[3-(4-Amino-3-nitrophenoxy)propyl]-4-benzylpiperidine | 0.61 mmol, 226 mg | NC1=C(C=C(OCCCN2CCC(CC2)CC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C21H27N3O3
solvent | EtOH | 25 mL | CCO | C2H6O
product | 4-benzyl-1-[(3,4-diamino-phenoxy)propyl]piperidine | 140 mg, 67.6% | C(C1=CC=CC=C1)C1CCN(CC1)CCCOC1=CC(=C(C=C1)N)N | C21H29N3O
